US04880806
2,3,6-Trifluorobenzoic acid (21.0 g) is added to conc. sulfuric acid (120 ml) under ice-cooling. To the mixture is added dropwise a solution of potassium nitrate (14.5 g) in conc sulfuric acid (30 ml) at below 20° C. After the addition, the mixture is stirred at room temperature for one hour. The reaction mixture is poured into ice water and extracted with diethyl ether. The extract is dried over magnesium sulfate, and then the solvent is distilled off. The residue is recrystallized from dichloromethane-n-hexane to give 2,5,6-trifluoro-3-nitrobenzoic acid (22 g), as colorless prisms, m.p. 98°-99° C.

reactant | 2,3,6-Trifluorobenzoic acid | 21.0 g | FC1=C(C(=O)O)C(=CC=C1F)F | C7H3F3O2
reactant | potassium nitrate | 14.5 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
product | 2,5,6-trifluoro-3-nitrobenzoic acid | 22 g | FC1=C(C(=O)O)C(=C(C=C1[N+](=O)[O-])F)F | C7H2F3NO4
